US08017603B2
(4-Phenylbicyclo[2.2.2]oct-1-yl)methanol
A solution of ethyl 4-phenylbicyclo[2.2.2]octane-1-carboxylate (207 g, 801 mmol) in THF (850 mL) was added to a stirred solution of lithium aluminium hydride (20 g, 527 mmol) in THF (1.25 L) under nitrogen, maintaining a temperature of 20-25° C. with an ice/water bath. The reaction mixture was stirred for 3 h, allowed to stand overnight, then quenched by addition to a mixture of water (900 mL) and ice (300 g). The mixture was acidified to pH 1-2 with concentrated hydrochloric acid then extracted with ethyl acetate (3×1 L). The combined organics were dried (MgSO4) and evaporated down to give the title compound as a brown solid (176 g; ˜100%). 1H NMR (CDCl3) 1.35 (1H, brd s), 1.40-1.52 (6H, m), 1.71-1.85 (6H, m), 3.25 (2H, s), 7.05-7.13 (1H, m), 7.17-7.30 4H, m).

reactant | ethyl 4-phenylbicyclo[2.2.2]octane-1-carboxylate | 801 mmol, 207 g | C1(=CC=CC=C1)C12CCC(CC1)(CC2)C(=O)OCC | C17H22O2
reactant | lithium aluminium hydride | 527 mmol, 20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 850 mL | C1CCOC1 | C4H8O
solvent | THF | 1.25 L | C1CCOC1 | C4H8O
product | (4-Phenylbicyclo[2.2.2]oct-1-yl)methanol | 176 g, ~100% | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CO | C15H20O
